US03998966
To a solution of 26 g. of 6-methoxymethyloxy-2-naphthyl-α-methylacetic acid and 500 ml. of diethyl ether are slowly added a solution comprising of 5.6 g. of diazoethane and 50 ml. of diethyl ether. The reaction mixture is allowed to stand for 15 minutes and then is evaporated under reduced pressure to yield ethyl 6-methoxymethyloxy-2-naphthyl-α-methylacetate. By replacing diazoethane with diazopropane in the above process, propyl 6-methoxymethyloxy-2-naphthyl-α-methylacetate is obtained.

reactant | 6-methoxymethyloxy-2-naphthyl-α-methylacetic acid | COCOC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C15H16O4
reactant | diazoethane | [N+](=[N-])=CC | C2H4N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 6-methoxymethyloxy-2-naphthyl-α-methylacetate | COCOC=1C=C2C=CC(=CC2=CC1)C(C(=O)OCC)C | C17H20O4
